* /Users/bryanvespignani/Documents/LTspice/Draft3.asc
V1 N008 0 12
R1 N007 N008 1k
R2 N004 N007 1.5k
R3 N004 N009 22k
R4 N009 0 20k
R5 N009 0 10k
R6 N006 N004 1k
V2 N006 0 5
I1 N006 N004 5m
R8 N007 N003 2k
R9 N004 N003 10k
I2 N008 N003 10m
R7 N006 N002 100
R10 N002 N001 1k
R11 N005 N002 100
V3 N001 N004 7
I3 N005 0 10m
V4 N009 N004 50m
.op
.backanno
.end
